US07704995B2
3-Amino-N-methyl-6-(3-{[(phenylcarbonyl)amino]methyl}phenyl)pyrazine-2-carboxamide 3-Amino-6-(3-aminomethyl-phenyl)-pyrazine-2-carboxylic acid methylamide (10.0 mg, 0.04 mmol) was dissolved in acetonitrile (2 mL) followed by the addition of TEA (11.2 μl, 0.08 mmol) and benzoyl chloride (3.50 μl, 0.04 mmol). It was stirred at room temperature overnight. The reaction mixture was poured into water (10 mL), and extracted with ethyl acetate (2×10 mL) then dried over anhydrous sodium sulfate and filteration, concentration and purified by column chromatography (50% Ethylacetae/hexanes) to give 3-amino-6-[3-(benzoylamino-methyl)-phenyl]-pyrazine-2-carboxylic acid methylamide, 8.70 mg (85.0% yield): 1H NMR (400 MHz, CDCl3): δ 8.60 (s, 1H), 8.00 (br, 1H), 7.80 (m, 4H), 7.52 (m, 4H), 7.20 (s, 1H), 6.50 (br, 1H), 4.80 (m, 2H), 3.00 (d, 3H); MS (EI) for C20H19N5O2: 362.41 (MH+).

reactant | 3-Amino-N-methyl-6-(3-{[(phenylcarbonyl)amino]methyl}phenyl)pyrazine-2-carboxamide 3-Amino-6-(3-aminomethyl-phenyl)-pyrazine-2-carboxylic acid methylamide | 0.04 mmol, 10.0 mg | CNC(=O)C1=NC(=CN=C1N)C1=CC(=CC=C1)CN.NC=1C(=NC(=CN1)C1=CC(=CC=C1)CNC(=O)C1=CC=CC=C1)C(=O)NC
reactant | benzoyl chloride | 0.04 mmol, 3.50 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-amino-6-[3-(benzoylamino-methyl)-phenyl]-pyrazine-2-carboxylic acid methylamide | 85.0% yield | CNC(=O)C1=NC(=CN=C1N)C1=CC(=CC=C1)CNC(C1=CC=CC=C1)=O | C20H19N5O2
